US05958942
5-Amino-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine-hydrochloride
To a suspension of 43.7 g (0.40 mol) of 2,6-diaminopyridine in 400 ml of ethanol was added 131.7 g (0.8 mol) of ethyl 2-chloroacetoacetate. The mixture was heated for 18 hours under reflux. After cooling, the resulting crystals was collected by filtration, washed with ethanol and ether successively to give 58.4 g of the desired compound (57.1%, pale yellow crystals).

reactant | 2,6-diaminopyridine | 0.40 mol, 43.7 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | ethyl 2-chloroacetoacetate | 0.8 mol, 131.7 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5-Amino-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine-hydrochloride | 58.4 g, 57.1% | Cl.NC1=CC=CC=2N1C(=C(N2)C)C(=O)OCC | InChI=1S/C11H13N3O2.ClH/c1-3-16-11(15)10-7(2)13-9-6-4-5-8(12)14(9)10;/h4-6H,3,12H2,1-2H3;1H
